US08034953B2
Step 1. 4-(3-Bromo-4-fluorophenyl)-3-{4-[(pyridin-3-ylmethyl)amino]-1,2,5-oxadiazol-3-yl}-1,2,4-oxadiazol-5(4H)-one trifluoroacetate
A solution of N-{4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-2,2,2-trifluoroacetamide (50 mg, 0.11 mmol), nicotinyl alcohol (14 μL, 0.15 mmol), and triphenylphosphine (42 mg, 0.16 mmol) in tetrahydrofuran (0.35 mL) at 0° C. was treated with diisopropyl azodicarboxylate (34 μL, 0.17 mmol). The reaction mixture was stirred at 25° C. for 16 h and purified by preparative LCMS to give the desired product (4 mg, 6%). LCMS for C16H11BrFN6O3 (M+H)+: m/z=432.9, 434.9.

reactant | N-{4-[4-(3-bromo-4-fluorophenyl)-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl]-1,2,5-oxadiazol-3-yl}-2,2,2-trifluoroacetamide | 0.11 mmol, 50 mg | BrC=1C=C(C=CC1F)N1C(=NOC1=O)C=1C(=NON1)NC(C(F)(F)F)=O | C12H4BrF4N5O4
reactant | nicotinyl alcohol | 0.15 mmol, 14 μL | C(C1=CN=CC=C1)O | C6H7NO
reactant | triphenylphosphine | 0.16 mmol, 42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.17 mmol, 34 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 0.35 mL | O1CCCC1 | C4H8O
product | 4-(3-Bromo-4-fluorophenyl)-3-{4-[(pyridin-3-ylmethyl)amino]-1,2,5-oxadiazol-3-yl}-1,2,4-oxadiazol-5(4H)-one trifluoroacetate | 4 mg, 6% | FC(C(=O)O)(F)F.BrC=1C=C(C=CC1F)N1C(=NOC1=O)C1=NON=C1NCC=1C=NC=CC1 | InChI=1S/C16H10BrFN6O3.C2HF3O2/c17-11-6-10(3-4-12(11)18)24-15(23-26-16(24)25)13-14(22-27-21-13)20-8-9-2-1-5-19-7-9;3-2(4,5)1(6)7/h1-7H,8H2,(H,20,22);(H,6,7)
